US05917054
4-Cyanophenyl hydrazine hydrochloride (20.2 g) and 4-benzoyloxy-cyclohexane (25.9 g) were dissolved in glacial acetic acid (400 ml) and the mixture was heated under reflux for 1.5 hr. After allowing to cool, the mixture was filtered, and the filtrate was evaporated to dryness, and neutralized with aqueous sodium bicarbonate solution to give a solid precipitate, which was purified by chromatography (SiO2 ; hexane/ethyl acetate) to give 3-benzoyloxy-6-cyano-1,2,3,4-tetrahydrocarbazole (18 g). This product (11.6 g) was suspended in ethanol (230 ml) and treated with 2.5% aqueous potassium hydroxide solution (120 ml), and heated under reflux for 1 hr. The cooled mixture was neutralized with glacial acetic acid and evaporated to a solid residue which was washed with water, and dried to give 3-hydroxy-6-cyano-1,2,3,4-tetrahydrocarbazole (6.6 g).

reactant | 4-Cyanophenyl hydrazine hydrochloride | 20.2 g | Cl.C(#N)C1=CC=C(C=C1)NN
reactant | 4-benzoyloxy-cyclohexane | 25.9 g | C(C1=CC=CC=C1)(=O)OC1CCCCC1 | C13H16O2
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 3-benzoyloxy-6-cyano-1,2,3,4-tetrahydrocarbazole | 18 g | C(C1=CC=CC=C1)(=O)OC1CCC=2NC3=CC=C(C=C3C2C1)C#N | C20H16N2O2
